US05143910
Ethyl 5-chloro-3,4-dihydroxybenzoate is p-methoxybenzylated with p-methoxybenzyl bromide and potassium carbonate in dimethylformamide to give ethyl 5-chloro-3,4-bis(p-methoxybenzyloxy)benzoate. This is hydrolyzed with sodium hydroxide to give 5-chloro-3,4-di(p-methoxybenzyloxy)benzoic acid.

reactant | Ethyl 5-chloro-3,4-dihydroxybenzoate | ClC=1C(=C(C=C(C(=O)OCC)C1)O)O | C9H9ClO4
reactant | p-methoxybenzyl bromide | COC1=CC=C(CBr)C=C1 | C8H9BrO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 5-chloro-3,4-bis(p-methoxybenzyloxy)benzoate | ClC=1C(=C(C=C(C(=O)OCC)C1)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC | C25H25ClO6
